US07906652B2
Methyl {1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}(3,5-difluorophenyl)acetate
To a solution of 3.83 g (20.57 mmol) of methyl(3,5-difluorophenyl)acetate in 30 mL of THF was added a solution of 8.6 mL (21.51 mmol) of butyllithium (2.5M solution in hexanes) and stirred for 30 minutes at −78° C. A solution of 5.73 g (18.7 mmol) of 1-[bis(4-chlorophenyl)methyl]azetidin-3-one in 10 mL THF was added and the solution was stirred for 2 h at −78° C. Then 2.28 g (18.6 mmol) of 4-dimethylaminopyridine, 3.3 mL(l 8.7 mmol) of DIEA and 3.0 mL (37.4 mmol) of methanesulfonyl chloride was added and the solution was stirred for 1 h as it warmed from −78° C. to rt. The reaction mixture was then warmed to 45° C. and stirred for additional 2.5 h. The mixture was poured into 250 mL of ether and washed with 50 mL of aq NaHCO3. The organic layer was dried over Na2SO4 and concentrated. The residue was purified by silica gel chromatography with hexanes/ethyl acetate=15:1 to afford the title compound; 1H-NMR (CDCl3) δ 3.67 (s, 3H), 3.84 (m, 2H), 4.25 (m, 2H), 4.54 (s, 1H), 6.76 (m, 1H), 6.78 (m, 2H), 7.33 (m, 3H), 7.38 (m, 2H); Mass Spectrum: m/e=474 (M+1 35Cl, 35Cl) and 476 (M+1 35Cl, 37Cl).

reactant | methyl(3,5-difluorophenyl)acetate | 20.57 mmol, 3.83 g | COC(CC1=CC(=CC(=C1)F)F)=O | C9H8F2O2
reactant | butyllithium | 21.51 mmol, 2.5M, 8.6 mL | C(CCC)[Li]
reactant | 1-[bis(4-chlorophenyl)methyl]azetidin-3-one | 18.7 mmol, 5.73 g | ClC1=CC=C(C=C1)C(N1CC(C1)=O)C1=CC=C(C=C1)Cl | C16H13Cl2NO
reactant | DIEA | 8.7 mmol, 3.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 37.4 mmol, 3.0 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 18.6 mmol, 2.28 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ether | 250 mL | CCOCC | C4H10O
product | Methyl {1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}(3,5-difluorophenyl)acetate | ClC1=CC=C(C=C1)C(N1CC(C1)=C(C(=O)OC)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl | C25H19Cl2F2NO2
